US08865712B2
g) 2-Bromo-5-fluoro-4-[2-methyl-1-(2-nitro-benzenesulfonyl)-aziridin-2-yl]-pyridine
To a solution of crude 2-bromo-5-fluoro-4-(2-methyl-aziridin-2-yl)-pyridine (3.17 g as a 45% mixture with Ph3PO, 6.17 mmol) and 2-nitrobenzene-1-sulfonyl chloride (1.368 g, 6.17 mmol) in THF (23.15 mL) and H2O (7.72 mL) was added N-methylmorpholine and the reaction mixture was stirred at rt for 1.5 h. Alox neutral (2-3 spatula) was added and the reaction mixture was filtered through celite, washed with DCM and the filtrates were diluted with DCM and 1M aq. NaHCO3 soln. The phases were separated and the aq. phase was reextracted twice with DCM. The combined org. phases were dried over Na2SO4 and concentrated. Flash chromatography on silica gel (heptane:EtOAc 4:1 to 3:1) followed by recrystallization from EtOAc/hexane yielded the title compound as a colourless solid. HPLC RtH4=1.11 min; ESIMS: 416, 418 [(M+H)+]; 1H NMR (400 MHz, CDCl3): δ 8.31-8.30 (m, 1H), 8.23 (d, 1H), 7.86-7.77 (m, 3H), 7.68 (d, 1H), 3.28 (s, 1H), 2.78 (s, 1H), 2.09 (s, 3H).

reactant | 2-bromo-5-fluoro-4-(2-methyl-aziridin-2-yl)-pyridine | BrC1=NC=C(C(=C1)C1(NC1)C)F | C8H8BrFN2
reactant | Ph3PO | P(=O)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15OP
reactant | 2-nitrobenzene-1-sulfonyl chloride | 6.17 mmol, 1.368 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | THF | 23.15 mL | C1CCOC1 | C4H8O
solvent | H2O | 7.72 mL | O | H2O
product | 2-Bromo-5-fluoro-4-[2-methyl-1-(2-nitro-benzenesulfonyl)-aziridin-2-yl]-pyridine | BrC1=NC=C(C(=C1)C1(N(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)F | C14H11BrFN3O4S
